US04327034
316.4 parts of pyridine are introduced at -10° C., whilst stirring, into a solution of 400 parts of phosgene in 2,500 parts of 1,2-dichloroethane. 630.4 parts of isopropylsulfamic acid chloride are then added at the same temperature and the reaction mixture is stirred for one hour at 22° C. Thereafter, the mixture is stirred for 8 minutes with 700 parts of water at 6° C. and pH 1. The organic phase is then separated off from the 2-phase mixture formed, and is filtered and subjected to fractional distillation. 763 parts (87% of theory) of N-chlorocarbonyl-N-isopropylsulfamic acid chloride, of boiling point 57°-62° C./0.11 mbar and nD25 =1.4749, are obtained.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
reactant | isopropylsulfamic acid chloride | C(C)(C)NS(=O)(=O)Cl | C3H8ClNO2S
solvent | water | O | H2O
product | N-chlorocarbonyl-N-isopropylsulfamic acid chloride | 87% | ClC(=O)N(S(=O)(=O)Cl)C(C)C | C4H7Cl2NO3S
